US04782162
Z-2-(2-Aminothiazol-4-yl)-2-butenoic acid
A solution of 16.5 parts by weight of potassium hydroxide in 111 parts by volume of water is heated up to 75° to 78° C. 14.9 parts by weight of ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate are added and the mixture is stirred at 75° to 78° C. for 2 hours. After cooling to 10° C., the mixture is brought to pH 7.0 with trifluoroacetic acid, the solution is filtered with suction over kieselguhr and the pH is then brought to 3.6 with further trifluoroacetic acid. The mixture is cooled to 0° C. and stirred at 0° C. for 30 minutes, and the crystals which have precipitated are isolated. After washing three times with 6 parts by volume of isopropanol each time, the crystals are dried. The product is then stirred with 62.4 parts by volume of acetone for 20 minutes, filtered off with suction, washed with 42 parts by volume of acetone and dried again. 6.3 parts by weight of pure product are obtained. Further product can be isolated from the mother liquor of the acetone extraction stirring.

reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=C/C | C11H14N2O3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | CC(=O)C | C3H6O
product | Z-2-(2-Aminothiazol-4-yl)-2-butenoic acid | NC=1SC=C(N1)/C(/C(=O)O)=C/C | C7H8N2O2S
